US07399759B2
5-Acetyl-2-cyanopyridine
3-Acetylpyridine N-oxide (2.0 g, 14.6 mmol) was dissolved in nitroethane (20 ml), and trimethylsilyl cyanide (1.7 g, 16.7 mmol) and N,N-dimethylcarbamoyl chloride (1.8 g, 16.7 mmol) were added thereto. The reaction mixture was stirred at room temperature for 16 hrs, concentrated under reduced pressure, combined with saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine and dried. The solvent was evaporated under reduced pressure. The residue was subjected to a silica gel column chromatography and eluted with hexane-ethyl acetate (3:1, v/v) to give the titled compound (0.40 g, 21%).

reactant | 3-Acetylpyridine N-oxide | 14.6 mmol, 2.0 g | C(C)(=O)C=1C=[N+](C=CC1)[O-] | C7H7NO2
reactant | trimethylsilyl cyanide | 16.7 mmol, 1.7 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 16.7 mmol, 1.8 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | nitroethane | 20 ml | [N+](=O)([O-])CC | C2H5NO2
product | 5-Acetyl-2-cyanopyridine | 0.40 g, 21% | C(C)(=O)C=1C=CC(=NC1)C#N | C8H6N2O
